US08012961B2
27.i. 2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl) -acrylic acid ethyl ester
Starting from 8-bromo-7-chloro-2-methoxy-[1,5]naphthyridine (41.75 g, 152.6 mmol) and diethyl malonate (70.2 mL, 3 eq.), the title compound was obtained as a white solid (31.35 g, 107.2 mmol) using the procedures reported in WO 2007/071936 for the analogous methyl ester.

reactant | 8-bromo-7-chloro-2-methoxy-[1,5]naphthyridine | 152.6 mmol, 41.75 g | BrC=1C(=CN=C2C=CC(=NC12)OC)Cl | C9H6BrClN2O
reactant | diethyl malonate | 70.2 mL, 3 eq. | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl) -acrylic acid ethyl ester | C(C)OC(C(=C)C1=C(C=NC2=CC=C(N=C12)OC)Cl)=O | C14H13ClN2O3
